US04996227
Preparation of 3-[(5-ethoxycarbonyl-2-thienyl)-methylene]-2,4(3H,5H) -furandione
0.494 gm of tetronic acid (FW=100, 4.94 mmole) and 2.00 gm of ethyl-5-carboxy-2-thiophenecarboxaldehyde (FW=184, 10.9 mole) in 2mL of THF and 10 mL of concentrated HC1 was reacted as before by applying heat and efficient stirring. The total reaction time was 10 minutes. Workup and recrystallization from methanol gave 0.827 gm (63%) of the product. M. p. 204°-205.5° C. C12H10O4S: %C 564.13; %H 3.79; found %C 53.93; %H 4.00. NMR results: 1HNMR (d6DMSO (H2)/TMS δ1.39 (3H, t, 7HZ); 4.39 (2H, q, 7Hz); 7.83 (1H, d, 4Hz); 8.21 (2H, m).

reactant | tetronic acid | 4.94 mmole, 0.494 gm | C1C(=O)COC1=O | C4H4O3
reactant | ethyl-5-carboxy-2-thiophenecarboxaldehyde | 10.9 mole, 2.00 gm | C(C)C1=C(SC(=C1)C(=O)O)C=O | C8H8O3S
reactant | THF | 2mL | C1CCOC1 | C4H8O
product | 3-[(5-ethoxycarbonyl-2-thienyl)-methylene]-2,4(3H,5H) -furandione | 0.827 gm, 63% | C(C)OC(=O)C1=CC=C(S1)C=C1C(OCC1=O)=O | C12H10O5S
